US08809333B2
Ethyl 2-(methylsulfonyl)propanoate
Sodium methyl sulfinate (103 g, 937 mmol) was combined with the ethyl 2-chloropropionate (109 g, 892 mmol) in EtOH (350 mL) in a 500 mL one neck round bottom flask. The reaction was warmed to 77° C. for 20 hours, and then allowed to cool to room temperature. Solids were removed by filtration through celite, and the filter pad was washed with EtOH. The combined filtrates were concentrated in vacuo. The crude product was suspended in diethyl ether (250 mL), and solids were removed by filtration. The filtrate was concentrated in vacuo to afford the title compound as a pale yellow oil (51 g, 73%). 1H NMR (400 MHz, CHLOROFORM-d) δ 1.32 (t, J=7.05 Hz, 3H) 1.67 (d, J=7.47 Hz, 3H) 3.05 (s, 3H) 3.83-3.92 (m, 1H) 4.18-4.37 (m, 2H).

reactant | Sodium methyl sulfinate | 937 mmol, 103 g | CS(=O)[O-].[Na+]
reactant | ethyl 2-chloropropionate | 892 mmol, 109 g | ClC(C(=O)OCC)C | C5H9ClO2
solvent | EtOH | 350 mL | CCO | C2H6O
product | Ethyl 2-(methylsulfonyl)propanoate | 51 g, 73% | CS(=O)(=O)C(C(=O)OCC)C | C6H12O4S
